US06300352B1
a) (2S)-2-(6-Bromonaphthalen-2-yloxy)-propionic acid ethyl ester
Prepared according to the method described in Example 1a) from 2-hydroxy-6-bromonaphthalene (11.2 g), R-(+)-ethyl lactate (5.93 g), triphenylphosphine (13.15 g) and diethylazodicarboxylate (9.61 g) in dry tetrahydrofuran (120 ml). The crude product was purified by column chromatography over silica eluting with dichloromethane:hexane (1:4-2:3) to give the sub-title compound as a solid (12.45 g).

reactant | 2-hydroxy-6-bromonaphthalene | 11.2 g | OC1=CC2=CC=C(C=C2C=C1)Br | C10H7BrO
reactant | triphenylphosphine | 13.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 9.61 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (2S)-2-(6-Bromonaphthalen-2-yloxy)-propionic acid ethyl ester | 12.45 g | C(C)OC([C@H](C)OC1=CC2=CC=C(C=C2C=C1)Br)=O | C15H15BrO3
